2157-03-18 07:25:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2157-3-17**] 02:00 PM
 PRESEP CATHETER - START [**2157-3-17**] 02:36 PM
 ARTERIAL LINE - START [**2157-3-17**] 03:07 PM
 NASAL SWAB - At [**2157-3-17**] 09:23 [**Name (NI) 8136**]
   Overnight, pt stable requiring no further fluid boluses. D5W at
   100cc/hr ordered for persistent hypernatremia
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-17**] 11:28 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-17**] 08:39 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-28**] sedation, intubation
   Flowsheet Data as of  [**2157-3-18**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 91 (78 - 99) bpm
   BP: 95/58(71) {93/50(65) - 123/73(91)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (5 - 17)mmHg
   Total In:
                                                                  8,012 mL
                                                                  1,115 mL
   PO:
   TF:
   IVF:
                                                                  1,882 mL
                                                                  1,065 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    415 mL
   Urine:
                                                                    660 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,352 mL
                                                                    700 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/36/81.[**Numeric Identifier 253**]/19/-2
   Ve: 9.2 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Increased, resting tremor, cogwheel rigidity
   Labs / Radiology
   161 K/uL
   10.7 g/dL
   146 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.0 mEq/L
   20 mg/dL
   124 mEq/L
   149 mEq/L
   31.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2157-3-17**]  02:17 PM
                             [**2157-3-17**]  03:32 PM
                             [**2157-3-17**]  09:02 PM
                             [**2157-3-17**]  09:26 PM
                             [**2157-3-18**]  02:18 AM
                             [**2157-3-18**]  04:45 AM
   WBC
   5.4
   Hct
   31.7
   Plt
   161
   Cr
   1.2
   1.1
   1.1
   TropT
   0.02
   <0.01
   TCO2
   22
   22
   23
   Glucose
   [**Telephone/Fax (3) 8137**]
   Other labs: PT / PTT / INR:14.9/26.9/1.3, CK / CKMB /
   Troponin-T:151/4/<0.01, Lactic Acid:1.7 mmol/L, Ca++:6.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL pneumonia and
   hemodynamic instability, likely pneumosepsis.
   .
   #. Pneumosepsis: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4.  Lactate down to 2.3 in the ICU after 6L
   NS in ED. Also, known to have dysphagia so at risk for aspiration. Had
   started levofloxacin 1 day prior to admission.
   -Needs MRSA and pseudomonas coverage, will give vancomycin and zosyn.
   Cont levo for atypical coverage for now
   -NS boluses to maintain CVP 8-12, UOP 0.5cc/kg/hr
   -Norepinephrine to maintain MAP of 65-70 if needed. A line in place.
   -Will send  blood cultures, sputum cultures, and urine cultures.
   .
   #. Respiratory distress: ABG on arrival to the floor 7.36/38/216. On
   100% FIO2, a/c rate 20, TV 550, Peep 5.
   -Decr Fi O2 to 60% and wean for O2 sat >92% overnight
   -rest on a/c tonight and plan to wean to pressure support in am as
   tolerated
   -conservator seems to think short term intubation in line with pt's
   wishes for now but pt is DNR
   - f/u one set of CE
   - fent/versed gtts for sedation
   .
   #. New left sided weakness- unclear from [**Name (NI) 621**] but unable to assess now as
   pt sedated for intubation
   -will reassess more fully in am
   .
   #. ARF- Cr on arrival 1.7 down to 1.2 after fluids. Most likely
   prerenal. Baseline Cr last time here in [**2152**] was 0.6.  '
   -Trend Cr.
   -IVF to maintain UOP >50cc/hr
   -f/u urine lytes
   .
   #. Hypernatremia - On arrival 149. Likely hypovolemic as pt [**Name (NI) 621**] resident
   with ? Baseline mental status. per guardian, at times agitated but
   mostly appropriate in conversations. After 6L NS in ed, Na here still
   149.
   -Recheck another set of lytes this evening at 11pm
   - if Na not trending down, will consider D5W to correct free water
   deficit.
   .
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   .
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   .
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   .
   FEN: NPO for now. Will reassess pending possible ability to extubate in
   am
   .
   PPX: PPI
   .
   ACCESS: RIJ, R A line
   .
   CODE STATUS: DNR, per guardian, ok with temporary intubation and
   pressors
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   .
   DISPOSITION:  ICU for now
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2157-03-18 08:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-17**] 11:28 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-17**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-18**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 91 (78 - 99) bpm
   BP: 95/58(71) {93/50(65) - 123/73(91)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (5 - 17)mmHg
   Total In:
                                                                  8,012 mL
                                                                  1,393 mL
   PO:
   TF:
   IVF:
                                                                  1,882 mL
                                                                  1,343 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    415 mL
   Urine:
                                                                    660 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,352 mL
                                                                    978 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/36/81.[**Numeric Identifier 253**]/19/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : LLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   161 K/uL
   146 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.0 mEq/L
   20 mg/dL
   124 mEq/L
   149 mEq/L
   31.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2157-3-17**]  02:17 PM
                             [**2157-3-17**]  03:32 PM
                             [**2157-3-17**]  09:02 PM
                             [**2157-3-17**]  09:26 PM
                             [**2157-3-18**]  02:18 AM
                             [**2157-3-18**]  04:45 AM
   WBC
   5.4
   Hct
   46
   31.7
   Plt
   161
   Cr
   1.2
   1.1
   1.1
   TropT
   0.02
   <0.01
   TCO2
   22
   22
   23
   Glucose
   [**Telephone/Fax (3) 8137**]
   Other labs: PT / PTT / INR:14.9/26.9/1.3, CK / CKMB /
   Troponin-T:151/4/<0.01, Lactic Acid:1.7 mmol/L, Ca++:6.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.1 mg/dL
   Imaging: CXR - LLL infiltrate, ET tube at 6-7 cm
   Microbiology: No new data.
   Assessment and Plan
   76 y/o M with septic shock from LLL PNA.
   #. Sepsis/Pneumonia: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4.  Lactate down to 2.3 in the ICU after 6L
   NS in ED. Also, known to have dysphagia so at risk for aspiration. Had
   started levofloxacin 1 day prior to admission.
   -Needs MRSA and pseudomonas coverage, will give vancomycin and zosyn.
   Cont levo for atypical coverage for now
   -NS boluses to maintain CVP 8-12, UOP 0.5cc/kg/hr
   -Norepinephrine to maintain MAP of 65-70 if needed. A line in place.
   -Will send  blood cultures, sputum cultures, and urine cultures.
   .
   #. Respiratory distress: ABG on arrival to the floor 7.36/38/216. On
   100% FIO2, a/c rate 20, TV 550, Peep 5.
   -Decr Fi O2 to 60% and wean for O2 sat >92% overnight
   -rest on a/c tonight and plan to wean to pressure support in am as
   tolerated
   -conservator seems to think short term intubation in line with pt's
   wishes for now but pt is DNR
   - f/u one set of CE
   - fent/versed gtts for sedation
   .
   #. New left sided weakness- unclear from [**Name (NI) 621**] but unable to assess now as
   pt sedated for intubation
   -will reassess more fully in am
   .
   #. ARF- Cr on arrival 1.7 down to 1.2 after fluids. Most likely
   prerenal. Baseline Cr last time here in [**2152**] was 0.6.  '
   -Trend Cr.
   -IVF to maintain UOP >50cc/hr
   -f/u urine lytes
   .
   #. Hypernatremia - On arrival 149. Likely hypovolemic as pt [**Name (NI) 621**] resident
   with ? Baseline mental status. per guardian, at times agitated but
   mostly appropriate in conversations. After 6L NS in ed, Na here still
   149.
   -Recheck another set of lytes this evening at 11pm
   - if Na not trending down, will consider D5W to correct free water
   deficit.
   .
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   .
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   .
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   .
   FEN: NPO for now. Will reassess pending possible ability to extubate in
   am
   .
   PPX: PPI
   .
   ACCESS: RIJ, R A line
   .
   CODE STATUS: DNR, per guardian, ok with temporary intubation and
   pressors
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   .
   DISPOSITION:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2157-03-19 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL
   pneumonia and hemodynamic instability, likely pneumosepsis.
   24 Hour Events:
 BLOOD CULTURED - At [**2157-3-19**] 12:39 AM
 URINE CULTURE - At [**2157-3-19**] 12:39 AM
 FEVER - 101.8
F - [**2157-3-19**] 12:00 AM++
   - extubated without complications, did well afterward
   - family came in, specifically son, daughter, and wife. Children wanted
   to know exactly what his oncology plan was and were anxious about
   continuing chemo, requested to speak to attending overnight; spoke to
   fellow.  We reassured them that father would not receive chemo without
   first consulting them and that the issue could be further explored in
   morning.
   - Transfused 1u for Hct 24.5 <- 27
   - received maintenance IVF for rhabdo tx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-18**] 08:00 AM
   Vancomycin - [**2157-3-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-19**] 12:03 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-18**] 02:00 PM
   Fentanyl - [**2157-3-18**] 09:27 PM
   Midazolam (Versed) - [**2157-3-18**] 09:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-19**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 83 (80 - 108) bpm
   BP: 91/51(65) {91/49(64) - 120/64(82)} mmHg
   RR: 21 (7 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 11 (9 - 334)mmHg
   Total In:
                                                                  4,555 mL
                                                                  1,499 mL
   PO:
   TF:
   IVF:
                                                                  4,045 mL
                                                                  1,229 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    400 mL
   Urine:
                                                                  1,270 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,285 mL
                                                                  1,099 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 490 (490 - 634) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.37/41/94.[**Numeric Identifier 128**]/20/-1
   Ve: 7.9 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   10.4 g/dL
   129 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   13 mg/dL
   116 mEq/L
   145 mEq/L
   31.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2157-3-17**]  09:02 PM
                             [**2157-3-17**]  09:26 PM
                             [**2157-3-18**]  02:18 AM
                             [**2157-3-18**]  04:45 AM
                             [**2157-3-18**]  10:00 AM
                             [**2157-3-18**]  02:29 PM
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
   WBC
   5.4
   5.4
   Hct
   31.7
   29.3
   31.6
   Plt
   161
   175
   Cr
   1.1
   1.1
   1.0
   1.0
   1.1
   1.1
   TropT
   <0.01
   <0.01
   TCO2
   22
   23
   25
   25
   Glucose
   280
   146
   232
   265
   157
   129
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL pneumonia and
   hemodynamic instability, likely pneumosepsis.
   #. Pneumosepsis: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4.  Lactate down to 2.3 in the ICU after 6L
   NS in ED. Also, known to have dysphagia so at risk for aspiration. Had
   started levofloxacin 1 day prior to admission.
   -Cont levo, vanco, zosyn for now
   - F/U CXR today
   -f/u  blood cultures and urine cultures.
   -resp to do mini BAL today to get sample for culture
   - monitor CVP, UOP and bolus with NS PRN
   #. Respiratory distress: last ABG7.39/36/ 82  overnight
   -will try to wean to PS today
   -conservator seems to think short term intubation in line with pt's
   wishes for now but pt is DNR
   - fent/versed gtts for sedation
   #. New left sided weakness- unclear from [**Name (NI) 621**] and difficult to assess [**2-28**]
   sedation but spastic on left side suggesting central lesion ? long
   standing?
   -try to contact [**Name (NI) 621**] today to get better history
   #. ARF- Cr on arrival 1.7 down to 1.1 this am. Most likely prerenal.
   Baseline Cr last time here in [**2152**] was 0.6.  '
   -Trend Cr.
   -IVF to maintain UOP >50cc/hr
   -f/u urine lytes
   #. Hypernatremia - On arrival 149. Likely hypovolemic as pt [**Name (NI) 621**] resident
   with ? Baseline mental status. per guardian, at times agitated but
   mostly appropriate in conversations. After 6L NS in ed, Na here still
   149.
   -free water flushed today
   -follow lytes today
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   FEN: NPO for now. Nutrition consulted for TF recs
   PPX: PPI
   ACCESS: RIJ, R A line
   CODE STATUS: DNR, per guardian, ok with temporary intubation and
   pressors
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2157-03-19 10:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2157-3-19**] 12:39 AM
 URINE CULTURE - At [**2157-3-19**] 12:39 AM
 FEVER - 101.8
F - [**2157-3-19**] 12:00 AM
 Vent changed to PSV
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-3-19**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-19**] 08:00 AM
   Levofloxacin - [**2157-3-19**] 09:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2157-3-18**] 09:27 PM
   Midazolam (Versed) - [**2157-3-18**] 09:29 PM
   Pantoprazole (Protonix) - [**2157-3-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-3-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2157-3-19**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.6
C (97.9
   HR: 79 (79 - 108) bpm
   BP: 114/64(80) {91/49(64) - 120/64(82)} mmHg
   RR: 24 (7 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 14 (9 - 328)mmHg
   Total In:
                                                                  4,555 mL
                                                                  1,945 mL
   PO:
   TF:
   IVF:
                                                                  4,045 mL
                                                                  1,675 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    555 mL
   Urine:
                                                                  1,270 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,285 mL
                                                                  1,390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 474 (474 - 634) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.37/41/94.[**Numeric Identifier 128**]/20/-1
   Ve: 9.1 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   175 K/uL
   129 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   13 mg/dL
   116 mEq/L
   145 mEq/L
   31.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2157-3-17**]  09:02 PM
                             [**2157-3-17**]  09:26 PM
                             [**2157-3-18**]  02:18 AM
                             [**2157-3-18**]  04:45 AM
                             [**2157-3-18**]  10:00 AM
                             [**2157-3-18**]  02:29 PM
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
   WBC
   5.4
   5.4
   Hct
   31.7
   29.3
   31.6
   Plt
   161
   175
   Cr
   1.1
   1.1
   1.0
   1.0
   1.1
   1.1
   TropT
   <0.01
   <0.01
   TCO2
   22
   23
   25
   25
   Glucose
   280
   146
   232
   265
   157
   129
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   76 y/o M w/ h/o DM, ventricular ependymomoa s/p craniotomy, SDH,
   dementia with septic shock from LLL PNA.
   # Sepsis/Pneumonia:
   - LLL pneumonia
   - miniBAL pending
   - On vanc/zosyn/levo
   - F/U cultures
   # Hemodynamics
   - not requiring pressors
   - IVF as needed
   # Respiratory failure:
   - [**2-28**] PNA
   - remains intubated
   - assessing for potential extubation today
   # ARF
   - Now resolved, creat stable
   # Hypernatremia:
   - follow lytes
   - Replete with FWF
    Other issues as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2157-03-20 08:01:00 Physician Resident Progress Note
Chief Complaint: resp failure, PNA
   24 Hour Events:
   -Did poorly on SBT so put in for tube feeds which were not started as
   plan to extubate this am
   -cultured around 11 am for fever, not recultured at 6 when febrile
   again
   -Attempted SBT again on [**2157-3-20**] in AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-3-19**] 08:00 AM
   Levofloxacin - [**2157-3-19**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-19**] 11:43 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-3-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-3-19**] 08:58 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-28**] intubation
   Flowsheet Data as of  [**2157-3-20**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.6
   HR: 100 (74 - 113) bpm
   BP: 109/79(93) {86/58(71) - 155/97(114)} mmHg
   RR: 29 (12 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 20 (11 - 22)mmHg
   Total In:
                                                                  2,465 mL
                                                                    108 mL
   PO:
   TF:
   IVF:
                                                                  2,105 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    410 mL
   Urine:
                                                                  1,370 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,095 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 496 (438 - 496) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 39
   SpO2: 96%
   ABG: 7.43/41/101/26/2
   Ve: 11.4 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful, Tone:
   Increased
   Labs / Radiology
   193 K/uL
   9.9 g/dL
   94 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   12 mg/dL
   111 mEq/L
   143 mEq/L
   29.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2157-3-18**]  02:18 AM
                             [**2157-3-18**]  04:45 AM
                             [**2157-3-18**]  10:00 AM
                             [**2157-3-18**]  02:29 PM
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
   WBC
   5.4
   5.4
   4.9
   Hct
   31.7
   29.3
   31.6
   29.9
   Plt
   161
   175
   193
   Cr
   1.1
   1.0
   1.0
   1.1
   1.1
   0.9
   TropT
   <0.01
   TCO2
   23
   25
   25
   28
   Glucose
   146
   232
   265
   157
   129
   94
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL pneumonia and
   hemodynamic instability, likely pneumosepsis.
   #. Pneumosepsis: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4.  Lactate down to 2.3 in the ICU after 6L
   NS in ED. Also, known to have dysphagia so at risk for aspiration. Had
   started levofloxacin 1 day prior to admission.   Has some more sputums
   as of [**2157-3-18**].
   -Cont levo (day 3); vanco and zosyn (day 2)
   - consider monotherapy with zosyn if MRSA negative and clinically
   improves, though patient
s risk factors (Nursing home, multiple
   pneumonias, possible treatment failure)
   -f/u  blood cultures and urine cultures.
   - monitor CVP, UOP and bolus with NS PRN
   #. Respiratory failure:  Intubated for tachypnea and concern for tiring
   though no abnormal ABG data at time of intubation.  Has done well on PS
   over the past 24 hours and will attempt trial of spontaneous breathing.
   - SBT
   -conservator seems to think short term intubation in line with pt's
   wishes for now but pt is DNR
   - decrease fent/versed gtts for sedation
   #. Left hemiparesis:  Communicated with nurse [**First Name (Titles) **] [**Hospital3 213**] on [**3-18**]
   and she confirms that patient has had left hemiparesis x 4 years.
   - continue to follow
   #. ARF- Cr on arrival 1.7 down to 1.1 this am. Most likely prerenal.
   Baseline Cr last time here in [**2152**] was 0.6.  '
   -Trend Cr.
   -IVF to maintain UOP >50cc/hr
   -f/u urine lytes
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   FEN: NPO for now. Nutrition consulted for TF recs
   PPX: PPI
   ACCESS: RIJ, R A line
   CODE STATUS: DNR, per guardian, ok with temporary intubation and
   pressors
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   ICU Care
   Nutrition: NPO for now [**2-28**] possible extubation today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2157-03-20 11:34:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Fever 100.9
   - cultured
   - failed SBT
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-20**] 08:00 AM
   Vancomycin - [**2157-3-20**] 08:00 AM
   Levofloxacin - [**2157-3-20**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-20**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 92 (74 - 115) bpm
   BP: 93/81(86) {86/58(71) - 155/115(125)} mmHg
   RR: 20 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 20 (11 - 23)mmHg
   Total In:
                                                                  2,465 mL
                                                                    603 mL
   PO:
   TF:
   IVF:
                                                                  2,105 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    870 mL
   Urine:
                                                                  1,370 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,095 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 515 (438 - 515) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   SpO2: 94%
   ABG: 7.43/41/101/26/2
   Ve: 16.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Diminished: Lt base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   193 K/uL
   94 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   12 mg/dL
   111 mEq/L
   143 mEq/L
   29.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2157-3-18**]  02:18 AM
                             [**2157-3-18**]  04:45 AM
                             [**2157-3-18**]  10:00 AM
                             [**2157-3-18**]  02:29 PM
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
   WBC
   5.4
   5.4
   4.9
   Hct
   31.7
   29.3
   31.6
   29.9
   Plt
   161
   175
   193
   Cr
   1.1
   1.0
   1.0
   1.1
   1.1
   0.9
   TropT
   <0.01
   TCO2
   23
   25
   25
   28
   Glucose
   146
   232
   265
   157
   129
   94
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   76 y/o M w/ h/o DM, ventricular ependymomoa s/p craniotomy, SDH,
   dementia with septic shock from LLL PNA.
   # Sepsis/Pneumonia:
   - LLL pneumonia
   - miniBAL NGTD
   - On vanc/zosyn/levo
   - F/U cultures
    # Hemodynamics
   - off of pressors
   - IVF as needed
   # Respiratory failure:
   - [**2-28**] PNA
   - remains intubated
   - failed SBT today, reassess tomorrow
   # ARF
   - Now resolved, creat stable
   # Hypernatremia:
   - resolved
   #Nut
   -start TF
   Other issues as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2157-03-21 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL
   pneumonia who came to the ICU with hemodynamic instability, likely
   pneumosepsis.
   24 Hour Events:
   -left message for guardian to call ICU to reconfirm his wishes prior to
   extubation re second intubation
   -cont to have incr ETT suction- thick white and oral secretions
   -failed PS [**2-28**] tachypnea
   - tube feeds started
   - Cx NGTD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-3-20**] 08:00 AM
   Levofloxacin - [**2157-3-20**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-20**] 11:29 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-20**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 91 (75 - 119) bpm
   BP: 93/52(67) {62/47(8) - 254/249(252)} mmHg
   RR: 34 (18 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 12 (12 - 31)mmHg
   Total In:
                                                                  1,247 mL
                                                                    224 mL
   PO:
   TF:
                                                                    120 mL
                                                                    111 mL
   IVF:
                                                                  1,067 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    350 mL
   Urine:
                                                                  1,510 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 515 (515 - 515) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 95%
   ABG: 7.45/34/114/22/0
   Ve: 16.1 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   9.7 g/dL
   122 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   13 mg/dL
   108 mEq/L
   140 mEq/L
   29.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2157-3-18**]  10:00 AM
                             [**2157-3-18**]  02:29 PM
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
                             [**2157-3-21**]  04:12 AM
                             [**2157-3-21**]  04:57 AM
   WBC
   5.4
   4.9
   5.7
   Hct
   29.3
   31.6
   29.9
   29.0
   Plt
   175
   193
   210
   Cr
   1.0
   1.0
   1.1
   1.1
   0.9
   1.0
   TCO2
   25
   25
   28
   24
   Glucose
   232
   265
   157
   129
   94
   122
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL pneumonia who came
   to the ICU with hemodynamic instability, likely pneumosepsis.
   #. Pneumosepsis: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4 on admission.  Lactate down to 2.3 in the
   ICU after 6L NS in ED. Also, known to have dysphagia so at risk for
   aspiration. Had started levofloxacin 1 day prior to admission.   So far
   both sputum and mini BAL without growth
   -Cont levo (day 6); vanco and zosyn (day 5)
   - Pt MRSA negative so will consider d/c vanco if appears to be
   clinically improving.
   - f/u  blood cultures and urine cultures.
   #. Respiratory failure:  Intubated for tachypnea and concern for tiring
   though no abnormal ABG data at time of intubation.  Developed tachypnea
   on [**3-20**] on SBT and put back on AC.  Anxiety likely plays a large
   component, as patient hyperventilates when anxious.  [**Month (only) 60**] do well if
   simply extubated.
   - bronch to remove any remaining secretions prior to extubation
   - will decrease PS and attempt to extubate
   - holding haldol/seroquel for now
   - speak to guardian about patient
s preferences re: re-intubation
   should he fail extubation
   #. Left hemiparesis:  Communicated with nurse [**First Name (Titles) **] [**Hospital3 213**] on [**3-18**]
   and she confirms that patient has had left hemiparesis x 4 years.
   - continue to follow
   #. ARF- Cr on arrival 1.7 down to 0.9 this am. Most likely prerenal.
   Baseline Cr last time here in [**2152**] was 0.6.
   -Trend Cr., monitor UOP
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   FEN: cont TF but hold after midnight in anticipation of extubation
   PPX: PPI
   ACCESS: RIJ, R A line
   CODE STATUS: DNR, per guardian, ok with temporary intubation and
   pressors
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-03-21 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, sepsis, LLL PNA
   24 Hour Events:
   Doing well on PSV/CPAP 10/5 cms
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-21**] 08:00 AM
   Vancomycin - [**2157-3-21**] 09:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-21**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 94 (75 - 119) bpm
   BP: 88/51(64) {62/47(8) - 254/249(252)} mmHg
   RR: 30 (15 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 12 (12 - 31)mmHg
   Total In:
                                                                  1,247 mL
                                                                  1,097 mL
   PO:
   TF:
                                                                    120 mL
                                                                    111 mL
   IVF:
                                                                  1,067 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    680 mL
   Urine:
                                                                  1,510 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 716 (716 - 716) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 94%
   ABG: 7.45/34/114/22/0
   Ve: 14.5 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   210 K/uL
   122 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   13 mg/dL
   108 mEq/L
   140 mEq/L
   29.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2157-3-18**]  10:00 AM
                             [**2157-3-18**]  02:29 PM
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
                             [**2157-3-21**]  04:12 AM
                             [**2157-3-21**]  04:57 AM
   WBC
   5.4
   4.9
   5.7
   Hct
   29.3
   31.6
   29.9
   29.0
   Plt
   175
   193
   210
   Cr
   1.0
   1.0
   1.1
   1.1
   0.9
   1.0
   TCO2
   25
   25
   28
   24
   Glucose
   232
   265
   157
   129
   94
   122
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR - LLL infiltrate. Unchanged from previous.
   Microbiology: Resp Sputum: Culture 2+ oral flora
   Assessment and Plan
   76 y/o M w/ h/o DM, ventricular ependymomoa s/p craniotomy, SDH,
   dementia with septic shock from LLL PNA.
   # Sepsis/Pneumonia:
   - LLL pneumonia
   - On vanc/zosyn/levo
   - F/U cultures
   # Hemodynamics
   - Off of pressors
   - IVF as needed
   # Respiratory failure:
   - [**2-28**] PNA
   - remains intubated
   - failed SBT yesterday, but can likely pass extubation
   - Bronch to optimize status, then consider extubation
   - Clarify if patient would want to be reintubated
   # ARF
   - Now resolved, creat stable
   # Hypernatremia:
   - resolved
   Other issues as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2157-03-22 08:04:00 Physician Resident Progress Note
Chief Complaint: PNA
   24 Hour Events:
 BRONCHOSCOPY - At [**2157-3-21**] 02:30 PM
   - Spoke to [**Doctor Last Name 8131**] about intubation wishes of Mr. [**Known lastname 8130**]: she thinks he
   would be OK with re-intubation in the short-term but would likely not
   want another re-intubation should he fail extubation a second time.
   However, she
   - bronch showed thick secretions so held off on extubation.  will
   attempt on [**3-22**]
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-21**] 08:00 AM
   Vancomycin - [**2157-3-21**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-22**] 12:08 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2157-3-21**] 02:50 PM
   Fentanyl - [**2157-3-21**] 02:50 PM
   Heparin Sodium (Prophylaxis) - [**2157-3-21**] 09:29 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-28**] intubation
   Flowsheet Data as of  [**2157-3-22**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 93 (73 - 106) bpm
   BP: 136/74(96) {83/51(64) - 136/77(96)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,737 mL
                                                                    303 mL
   PO:
             TF:
                                                                    351 mL
                                                                      5 mL
   IVF:
                                                                  1,207 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    940 mL
   Urine:
                                                                  1,310 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    427 mL
                                                                   -637 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 478 (420 - 1,518) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.43/39/99.[**Numeric Identifier 253**]/24/1
   Ve: 11.8 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Increased
   Labs / Radiology
   212 K/uL
   9.9 g/dL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   137 mEq/L
   28.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
                             [**2157-3-21**]  04:12 AM
                             [**2157-3-21**]  04:57 AM
                             [**2157-3-22**]  05:12 AM
                             [**2157-3-22**]  05:48 AM
   WBC
   5.4
   4.9
   5.7
   5.8
   Hct
   31.6
   29.9
   29.0
   28.8
   Plt
   175
   193
   210
   212
   Cr
   1.1
   1.1
   0.9
   1.0
   0.9
   TCO2
   25
   25
   28
   24
   27
   Glucose
   157
   129
   94
   122
   108
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL pneumonia who came
   to the ICU with hemodynamic instability, likely pneumosepsis.
   #. Pneumosepsis: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4 on admission.  Lactate down to 2.3 in the
   ICU after 6L NS in ED. Also, known to have dysphagia so at risk for
   aspiration. Had started levofloxacin 1 day prior to admission.   So far
   both sputum and mini BAL without growth
   -Cont levo (day 7); vanco and zosyn (day 6)
   - Pt MRSA negative so will consider d/c vanco if appears to be
   clinically improving.
   - f/u  blood cultures and urine cultures.
   #. Respiratory failure:  Intubated for tachypnea and concern for tiring
   though no abnormal ABG data at time of intubation.  Developed tachypnea
   on [**3-20**] on SBT and put back on AC.  Anxiety likely plays a large
   component, as patient hyperventilates when anxious.  [**Month (only) 60**] do well if
   simply extubated.
   - will decrease PS today if possible
   - holding haldol/seroquel for now
   - speak to guardian about patient
s preferences re: re-intubation
   should he fail extubation
   -Lasix IV today to attempt to get -1L.  then check PM lytes
   -after optimization, will attempt extubation possibly tomorrow.
   #. Left hemiparesis:  Communicated with nurse [**First Name (Titles) **] [**Hospital3 213**] on [**3-18**]
   and she confirms that patient has had left hemiparesis x 4 years.
   - continue to follow
   #. ARF- Cr on arrival 1.7 down to 0.9 this am. Most likely prerenal.
   Baseline Cr last time here in [**2152**] was 0.6.
   -Trend Cr., monitor UOP
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   FEN: cont TF but hold after midnight in anticipation of extubation
   PPX: PPI
   ACCESS: RIJ, R A line
   CODE STATUS: DNR, per guardian, ok with temporary intubation and
   pressors
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2157-03-22 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Resp failure, LLL pNA
   24 Hour Events:
   Bronchoscopy with thick secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-22**] 08:03 AM
   Vancomycin - [**2157-3-22**] 09:02 AM
   Levofloxacin - [**2157-3-22**] 10:06 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2157-3-21**] 02:50 PM
   Fentanyl - [**2157-3-21**] 02:50 PM
   Heparin Sodium (Prophylaxis) - [**2157-3-21**] 09:29 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-22**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 112 (73 - 112) bpm
   BP: 104/62(75) {83/56(70) - 136/81(96)} mmHg
   RR: 32 (14 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,737 mL
                                                                    786 mL
   PO:
             TF:
                                                                    351 mL
                                                                      5 mL
   IVF:
                                                                  1,207 mL
                                                                    781 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                  1,380 mL
   Urine:
                                                                  1,310 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    427 mL
                                                                   -594 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 478 (420 - 1,518) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.43/39/99.[**Numeric Identifier 253**]/24/1
   Ve: 11.8 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   212 K/uL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   137 mEq/L
   28.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2157-3-18**]  02:56 PM
                             [**2157-3-19**]  12:30 AM
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
                             [**2157-3-21**]  04:12 AM
                             [**2157-3-21**]  04:57 AM
                             [**2157-3-22**]  05:12 AM
                             [**2157-3-22**]  05:48 AM
   WBC
   5.4
   4.9
   5.7
   5.8
   Hct
   31.6
   29.9
   29.0
   28.8
   Plt
   175
   193
   210
   212
   Cr
   1.1
   1.1
   0.9
   1.0
   0.9
   TCO2
   25
   25
   28
   24
   27
   Glucose
   157
   129
   94
   122
   108
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR - Increased bibasilar opacities with loss of diaphragm
   definition.
   Microbiology: No new data.
   Assessment and Plan
   76 y/o M w/ h/o DM, ventricular ependymomoa s/p craniotomy, SDH,
   dementia with septic shock from LLL PNA.
   # Respiratory failure:  [**2-28**] PNA.  Bronch yesteday with persistent thick
   secretions.  CXR today with increased interstitial volume / effusions.
   - On vanc/zosyn/levo
   - Thicker secretions today s/p bronch
   - Aggressive suctioning today with plans to reevaluate for extubation
   tomorrow
   - Diuresis with reevaluation of effusions tomorrow
 may need [**Female First Name (un) **] if
   persistent
   - Family would only want reintubation if new therapy identified,
   otherwise DNI
   # Sepsis/Hypotension: [**2-28**] pneumonia: Has resolved
   - Off of pressors
   - IVF as needed
   # ARF
   - Now resolved, creat stable
   # Hypernatremia:
   - resolved
   Other issues as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 35 minutes

2157-03-23 07:42:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Guardian called and messages left but no call back
   -PM lytes OK
   -Back on tube feeds
   -otherwise quiet day
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-3-22**] 09:02 AM
   Levofloxacin - [**2157-3-22**] 10:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-23**] 12:14 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2157-3-22**] 12:18 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  unable to perform [**2-28**] intubation, sedation
   Flowsheet Data as of  [**2157-3-23**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 94 (93 - 117) bpm
   BP: 93/56(72) {82/56(72) - 131/109(118)} mmHg
   RR: 23 (13 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 15 (15 - 17)mmHg
   Total In:
                                                                  1,314 mL
                                                                    434 mL
   PO:
   TF:
                                                                      5 mL
                                                                    124 mL
   IVF:
                                                                  1,310 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  5,080 mL
                                                                    380 mL
   Urine:
                                                                  4,780 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,766 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (340 - 520) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Increased
   Labs / Radiology
   261 K/uL
   10.3 g/dL
   137 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   30.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2157-3-19**]  12:40 AM
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
                             [**2157-3-21**]  04:12 AM
                             [**2157-3-21**]  04:57 AM
                             [**2157-3-22**]  05:12 AM
                             [**2157-3-22**]  05:48 AM
                             [**2157-3-22**]  04:59 PM
                             [**2157-3-23**]  04:08 AM
   WBC
   5.4
   4.9
   5.7
   5.8
   6.5
   Hct
   31.6
   29.9
   29.0
   28.8
   30.2
   Plt
   175
   193
   210
   212
   261
   Cr
   1.1
   0.9
   1.0
   0.9
   1.0
   0.9
   TCO2
   25
   28
   24
   27
   Glucose
   129
   94
   122
   108
   143
   137
   Other labs: PT / PTT / INR:14.0/32.1/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL pneumonia who came
   to the ICU with hemodynamic instability, likely pneumosepsis.
   #. Pneumosepsis: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4 on admission.  Lactate down to 2.3 in the
   ICU after 6L NS in ED. Also, known to have dysphagia so at risk for
   aspiration. Had started levofloxacin 1 day prior to admission.   So far
   both sputum and mini BAL without growth
   -Cont levo (day 7); vanco and zosyn (day 6)
   - Pt MRSA negative so will consider d/c vanco if appears to be
   clinically improving.
   - f/u  blood cultures and urine cultures.
   #. Respiratory failure:  Intubated for tachypnea and concern for tiring
   though no abnormal ABG data at time of intubation.  Developed tachypnea
   on [**3-20**] on SBT and put back on AC.  Anxiety likely plays a large
   component, as patient hyperventilates when anxious.  [**Month (only) 60**] do well if
   simply extubated.
   - will decrease PS today if possible
   - holding haldol/seroquel for now
   - speak to guardian about patient
s preferences re: re-intubation
   should he fail extubation
   -Lasix IV today to attempt to get -1L.  then check PM lytes
   -after optimization, will attempt extubation possibly tomorrow.
   #. Left hemiparesis:  Communicated with nurse [**First Name (Titles) **] [**Hospital3 213**] on [**3-18**]
   and she confirms that patient has had left hemiparesis x 4 years.
   - continue to follow
   #. ARF- Cr on arrival 1.7 down to 0.9 this am. Most likely prerenal.
   Baseline Cr last time here in [**2152**] was 0.6.
   -Trend Cr., monitor UOP
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   FEN: cont TF but hold after midnight in anticipation of extubation
   PPX: PPI
   ACCESS: RIJ, R A line
   CODE STATUS: DNR, per guardian, ok with temporary intubation and
   pressors
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2157-3-23**] 01:26 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2157-03-24 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL
   pneumonia who came to the ICU with hemodynamic instability, likely
   pneumosepsis.
   24 Hour Events:
   -CXR slightly better today
   - on albuterol and ipratropium nebs
   -wrote for Furosemide 20mg IV x1 at 11pm as pt was 1.3L positive on day
   -plan likely bronch, possible extubation in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-3-23**] 07:59 AM
   Levofloxacin - [**2157-3-23**] 08:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-3-23**] 11:54 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-3-23**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2157-3-23**] 09:23 PM
   Furosemide (Lasix) - [**2157-3-24**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 96 (82 - 104) bpm
   BP: 101/59(68) {91/45(57) - 113/59(71)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,526 mL
                                                                    303 mL
   PO:
             TF:
                                                                    839 mL
                                                                     96 mL
   IVF:
                                                                  1,477 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                    978 mL
                                                                  1,580 mL
   Urine:
                                                                    978 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,548 mL
                                                                 -1,277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (476 - 600) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 123
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///32/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   10.0 g/dL
   229 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.4 mEq/L
   8 mg/dL
   99 mEq/L
   138 mEq/L
   29.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2157-3-19**]  04:08 AM
                             [**2157-3-20**]  04:44 AM
                             [**2157-3-20**]  05:14 AM
                             [**2157-3-21**]  04:12 AM
                             [**2157-3-21**]  04:57 AM
                             [**2157-3-22**]  05:12 AM
                             [**2157-3-22**]  05:48 AM
                             [**2157-3-22**]  04:59 PM
                             [**2157-3-23**]  04:08 AM
                             [**2157-3-24**]  04:08 AM
   WBC
   5.4
   4.9
   5.7
   5.8
   6.5
   5.5
   Hct
   31.6
   29.9
   29.0
   28.8
   30.2
   29.1
   Plt
   175
   193
   210
   [**Telephone/Fax (3) 8224**]
   Cr
   1.1
   0.9
   1.0
   0.9
   1.0
   0.9
   1.0
   TCO2
   28
   24
   27
   Glucose
   129
   94
   122
   108
   143
   137
   229
   Other labs: PT / PTT / INR:13.6/28.6/1.2, CK / CKMB /
   Troponin-T:151/3/<0.01, Alk Phos / T Bili:/0.5, Differential-Neuts:78.5
   %, Lymph:12.0 %, Mono:6.5 %, Eos:2.8 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 8130**] is a 76M nursing home resident with a LLL pneumonia who came
   to the ICU with hemodynamic instability, likely pneumosepsis.
   #. Respiratory failure:  Intubated for tachypnea and concern for tiring
   though no abnormal ABG data at time of intubation.  Developed tachypnea
   on [**3-20**] on SBT and put back on AC.  Anxiety likely plays a large
   component, as patient hyperventilates when anxious.  [**Month (only) 60**] do well if
   simply extubated.
   - bronch and extubate today
   - no plan for re-intubation if fails extubation per discussion with
   guardian, [**Name (NI) 8131**], because failure would likely be secondary to an
   irreversible process
   - Scopolamine patch after extubation to reduce oral secretions
   - holding haldol/seroquel for now
   - lasix prn to reduce pulmonary edema
   #. Pneumosepsis: LLL pneumonia in a nursing home patient, with SIRS
   criteria, and lactate of 7.4 on admission.  Lactate down to 2.3 in the
   ICU after 6L NS in ED. Also, known to have dysphagia so at risk for
   aspiration. Had started levofloxacin 1 day prior to admission.   So far
   both sputum and mini BAL without growth
   -Cont levo (day 9); vanco and zosyn (day 8)
   - Pt MRSA negative so will consider d/c vanco if appears to be
   clinically improving.
   - may also consider d/c levofloxacin because has completed a course and
   atypical coverage likely unnecessary at this time
   - f/u blood cultures and urine cultures.
   #. Left hemiparesis:  Communicated with nurse [**First Name (Titles) **] [**Hospital3 213**] on [**3-18**]
   and she confirms that patient has had left hemiparesis x 4 years.
   - continue to follow
   #. ARF- Cr on arrival 1.7 down to baseline now of 0.9-1.1. Most likely
   prerenal. Baseline Cr last time here in [**2152**] was 0.6.
   -Trend Cr., monitor UOP
   #. DM - On novolin sliding scale, metformin and lantus at NH. Will hold
   on metformin for now given ARF but continue insulin
   # h/o SDH- cont home keppra. Per CT in ED, stable now.
   # HTN- Will hold metoprolol and lisinopril for now with borderline low
   BP.
   FEN: cont TF but hold after midnight in anticipation of extubation
   PPX: PPI
   ACCESS: RIJ, R A line
   CODE STATUS: DNR, do not re-intubate per guardian.  Pressors OK.
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 8131**] [**Last Name (NamePattern1) **] (med social worker and
   court-appointed guardian) cell [**Telephone/Fax (1) 8132**] work [**Telephone/Fax (1) 8133**]
   ICU Care
   Nutrition: NPO pending S&S after extubation
   Glycemic Control:
   Lines:
   Presep Catheter - [**2157-3-17**] 02:36 PM
   Arterial Line - [**2157-3-17**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU